US07897773B2
0.04 g of 1-[(4-pyridin-3-yl-8-azabicyclo[3.2.1]oct-8-yl)carbonyl]-1,2,3,4-tetrahydroquinoline is dissolved in 1.15 ml of a 0.2N solution of hydrochloric acid in ether. After evaporation, the residue is taken up in ethyl acetate. The precipitate is filtered off and then dried under vacuum. 0.004 g of 1-[(4-pyridin-3-yl-8-azabicyclo[3.2.1]oct-8-yl)carbonyl]-1,2,3,4-tetrahydroquinoline hydrochloride is obtained.

reactant | 1-[(4-pyridin-3-yl-8-azabicyclo[3.2.1]oct-8-yl)carbonyl]-1,2,3,4-tetrahydroquinoline | 0.04 g | N1=CC(=CC=C1)C1CCC2CCC1N2C(=O)N2CCCC1=CC=CC=C21 | C22H25N3O
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-[(4-pyridin-3-yl-8-azabicyclo[3.2.1]oct-8-yl)carbonyl]-1,2,3,4-tetrahydroquinoline hydrochloride | 0.004 g | Cl.N1=CC(=CC=C1)C1CCC2CCC1N2C(=O)N2CCCC1=CC=CC=C21 | InChI=1S/C22H25N3O.ClH/c26-22(24-14-4-7-16-5-1-2-8-20(16)24)25-18-9-11-19(21(25)12-10-18)17-6-3-13-23-15-17;/h1-3,5-6,8,13,15,18-19,21H,4,7,9-12,14H2;1H
